US08492549B2
2-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]propan-2-ol
To a solution of 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidine-3-carboxylic acid ethyl ester (1.13 g, 3.53 mmol) in dry THF (50 ml) under nitrogen at 0° C. a solution of methyl magnesium chloride in THF (3.53 ml, 3.0 M) was added dropwise. The resulting solution was refluxed for 2.5 h. Water was then slowly added under cooling and the product was extracted with DCM and purified by column chromatography (DCM/MeOH, 95:5) to give the title compound.

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidine-3-carboxylic acid ethyl ester | 3.53 mmol, 1.13 g | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)C | C18H25NO4
reactant | methyl magnesium chloride | C[Mg]Cl
reactant | Water | O | H2O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 3.0 M, 3.53 ml | C1CCOC1 | C4H8O
product | 2-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methylpiperidin-3-yl]propan-2-ol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)C(C)(C)O | C18H27NO3
